US04929607
2-[2-(bis-(2-chloroethyl)-amino)-2-oxo-tetrahydro-2H-1,3,2-oxazaphosphorin-3-yl-thio]-ethanesulphonic acid ammonium salt
2.8 g (10 mmol), of 4-hydroxycyclophosphamide and 1.6 g (10 mmol) of ammonium-2-mercaptoethanesulphonate were dissolved with a cataytic quantity of trichloroacetic acid in 10 ml of dimethylformamide and were stored in a refrigerator at -25° C. for 20 hours. After a further 5 hours at 0° C., the mixture was mixed with ehter until clouding commenced and was triturbated. The crystrallised material was filtered with suction after 1 day at 0° C., washed dried and recrystallised from n-propanol.

reactant | 4-hydroxycyclophosphamide | C1COP(=O)(NC1O)N(CCCl)CCCl | C7H15Cl2N2O3P
reactant | ammonium 2-mercaptoethanesulphonate | 10 mmol, 1.6 g | [NH4+].SCCS(=O)(=O)[O-]
reactant | trichloroacetic acid | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-[2-(bis-(2-chloroethyl)-amino)-2-oxo-tetrahydro-2H-1,3,2-oxazaphosphorin-3-yl-thio]-ethanesulphonic acid ammonium salt | [NH4+].ClCCN(P1(OCCCN1SCCS(=O)(=O)[O-])=O)CCCl | InChI=1S/C9H19Cl2N2O5PS2.H3N/c10-2-5-12(6-3-11)19(14)13(4-1-7-18-19)20-8-9-21(15,16)17;/h1-9H2,(H,15,16,17);1H3
